US08609656B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(6-(methylamino)purin-9-yl)phenyl]urea hydrochloride (Table 1, Compound No. 36)
The title compound can be synthesized from 6-chloropurine, methylamine, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by the same method as in Example 35.

reactant | 6-chloropurine | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | methylamine | CN | CH5N
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(6-(methylamino)purin-9-yl)phenyl]urea hydrochloride | Cl.ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC)C(F)(F)F | InChI=1S/C20H15ClF3N7O.ClH/c1-25-17-16-18(27-9-26-17)31(10-28-16)13-5-2-11(3-6-13)29-19(32)30-12-4-7-15(21)14(8-12)20(22,23)24;/h2-10H,1H3,(H,25,26,27)(H2,29,30,32);1H
